US05420126
In 15 ml of toluene were dissolved 0.5 g of 6-cyano-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazine, 0.33 g of cyclohexane-1,2-dione and a catalytic amount of p-toluenesulfonic acid and using a Dean-Stark trap, the solution was refluxed under heating for 4 hours. After cooling, the reaction mixture was washed with saturated aqueous sodium hydrogen carbonate solution and aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography and the resulting crude crystals were washed with ethanol to give 0.5 g of 6-cyano-3,4-dihydro-2,2-dimethyl-4-(6-oxo-1-cyclohexen-1-yl)-2H-1,4-benzoxazine.

reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazine | 0.5 g | C(#N)C=1C=CC2=C(NCC(O2)(C)C)C1 | C11H12N2O
reactant | cyclohexane-1,2-dione | 0.33 g | C1(C(CCCC1)=O)=O | C6H8O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 6-cyano-3,4-dihydro-2,2-dimethyl-4-(6-oxo-1-cyclohexen-1-yl)-2H-1,4-benzoxazine | 0.5 g | C(#N)C=1C=CC2=C(N(CC(O2)(C)C)C2=CCCCC2=O)C1 | C17H18N2O2
